US07173045B2
KOH (11.5 g, 0.2 mol.) was added to a solution of indole (5.0 g, 40.0 mmol.) and 3-bromopropionic acid methyl ester (4.37 ml, 40 mmol.) in DMSO (35 ml), and stirring was carried out for 24 h at RT. For working up, water (50 ml) was added to the mixture, washing was carried out with ether (5×20 ml), and the aqueous phase was adjusted to pH 4 with 1M HCl and extracted with ether (5×20 ml). The combined extracts were dried, filtered and concentrated. Chromatography with methanol yielded 3-indol-1-ylpropionic acid in a yield of 3.8 g (white solid, m.p. 54–56° C.).

reactant | KOH | 0.2 mol, 11.5 g | [OH-].[K+]
reactant | indole | 40.0 mmol, 5.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-bromopropionic acid methyl ester | 40 mmol, 4.37 ml | COC(CCBr)=O | C4H7BrO2
reactant | water | 50 ml | O | H2O
solvent | DMSO | 35 ml | CS(=O)C | C2H6OS
product | 3-indol-1-ylpropionic acid | N1(C=CC2=CC=CC=C12)CCC(=O)O | C11H11NO2
